datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN(C)C1=CC=C([CH:20]=[C:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1.[CH2:10]=[CH:11][CH:62]=[CH2:63]>>CN(C)C1=CC=C([CH:20]([CH2:10][CH+:11][CH:62]=[CH2:63])[C-:21]([S:32](C2=CC=CC=C2)(=[O:33])=[O:34])[S:41](C2=CC=CC=C2)(=[O:42])=[O:43])C=C1 10,11=10,20;20,21=21"
"CC(C)[O:33][C:22](/[N:21]=[N:20]/[C:41](=[O:42])[O:43]C(C)C)=[O:23].OC(C1=CC=CC=C1)(C1=CC=CC=C1)[C@@H]1CCC[NH:10]1>>CC(C)[O:33][C:22](=[N:21][N:20]([NH+:10]1CCC[C@H]1C(O)(C1=CC=CC=C1)C1=CC=CC=C1)[C:41](=[O:42])[O:43]C(C)C)[O-:23] 10=20;20,21=21,22;22,23=23"
"C[C:21](=[CH:20]\[C:31](=[O:32])[N:33](C)C)/[N:22]=[N:23]/[C:24](NC1=CC=CC=C1)=[O:25].[CH:10]1([Li:11])[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2>>C[C:21]([CH:20]([CH:10]1[CH:61]=[CH:62][C:72]2=[C:71]1[CH:73]=[CH:74][CH:75]=[CH:76]2)[C:31](=[O:32])[N:33](C)C)=[N:22][N:23]=[C:24](NC1=CC=CC=C1)[O-:25].[Li+:11] 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"CC[O:72][C:61](/[CH:10]=[CH:11]/[N:12]1CCOCC1)=[O:62].C[C:34]1=[CH:33][CH:32]=[C:31]([C+:20]([C:41]2=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]2)[C:51]2=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]2)[CH:36]=[CH:35]1>>CC[O:72][C:61]([CH:10]([CH:11]=[N+:12]1CCOCC1)[C:20]([C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1)([C:41]1=[CH:42][CH:43]=[C:44](C)[CH:45]=[CH:46]1)[C:51]1=[CH:52][CH:53]=[CH:54][CH:55]=[CH:56]1)=[O:62] 10,11=10,20;12=11,12"
"CC(C)(C)[C:23]1=[CH:22][C:21](=[CH:20][C:41]2=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]2)[CH:32]=[C:33](C(C)(C)C)[C:24]1=[O:25].CC[O:72][C:61]([S-:10])=[S:62]>>CC[O:72][C:61]([S:10][CH:20]([C:21]1=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]1)[C:41]1=[CH:42][C:43](F)=[CH:44][CH:45]=[CH:46]1)=[S:62] 10=20;20,21=21,22;22,23=23,24;24,25=25"
"Cl[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.N#C[C:20]1=[C:21](C#N)[C:22](=[O:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33]>>N#C[C:20]1([O:10][C:61]2=[CH:62][CH:63]=[C:64](Cl)[CH:73]=[CH:72]2)[C:21](C#N)=[C:22]([O-:23])[C:30](Cl)=[C:31](Cl)[C:32]1=[O:33] 10=20;20,21=21,22;22,23=23"
"CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O-:10])[CH:72]=[CH:73]1.C[O:33][C:22]([CH:21]=[CH2:20])=[O:23]>>CC(C)(C)[C:64]1=[CH:63][CH:62]=[C:61]([O:10][CH2:20][CH:21]=[C:22]([O-:23])[O:33]C)[CH:72]=[CH:73]1 10=20;20,21=21,22;22,23=23"
"C/[CH:63]=[CH:62]/[CH:11]=[CH2:10].C1C[O:33][C:22](=[O:23])[C:21]1=[CH2:20]>>C/[CH:63]=[CH:62]/[CH+:11][CH2:10][CH2:20][C:21]1=[C:22]([O-:23])[O:33]CC1 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)[O:72][C:61]([S-:10])=[S:62].CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]=[C:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1>>CO[C:54]1=[CH:53][CH:52]=[C:51]([CH:20]([S:10][C:61](=[S:62])[O:72]C(C)C)[C-:21]2[S:32](=[O:33])(=[O:34])CCC[S:41]2(=[O:42])=[O:43])[CH:55]=[CH:56]1 10=20;20,21=21"
"C1=C[C:62]2=[C:63](C=C1)[C:71](=[O:72])[N-:10][C:61]2=[O:62].CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]=[C:21]2[CH:22]=[C:23](C(C)(C)C)[C:24](=[O:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1>>CN(C)[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N:10]2[C:61](=[O:62])[C:62]3=[C:63](C=CC=C3)[C:71]2=[O:72])[C:21]2=[CH:22][C:23](C(C)(C)C)=[C:24]([O-:25])[C:33](C(C)(C)C)=[CH:32]2)[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23,24;24,25=25"
"C[C:63]([NH:12][C:11]1=[CH:10]CCC1)=[O:64].Cl[C:44]1=[CH:43][CH:42]=[C:41]([C+:20]2CC[CH:32]=[CH:31]2)[CH:52]=[CH:53]1>>C[C:63]([NH+:12]=[C:11]1CCC[CH:10]1[C:20]1([C:41]2=[CH:42][CH:43]=[C:44](Cl)[CH:53]=[CH:52]2)CC[CH:32]=[CH:31]1)=[O:64] 10,11=10,20;12=11,12"
"[C:20](=[S:21])=[S:31].[O-:10][C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1>>[O:10]([C:20]([S-:21])=[S:31])[C:61]1=[C:62]([N+:63](=[O:64])[O-:74])[CH:83]=[CH:84][CH:85]=[CH:86]1 10=20;20,21=21"
"CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2-:11][H:10].O=[N+]([O-])[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20]N2N=N[N:35]=[C:34]21>>CC(C)[N+:62](C1=CC=CC=C1)(C(C)C)[BH2:11].O=[N+]([O-])[C:33]1=[CH:32][C:21](=[N+:22]([O-])[O-:23])[CH:20]([H:10])N2N=N[N:35]=[C:34]21 10,11=10,20;20,21=21,22;22,23=23"
"CC(C)(C)[N:62]1[P:11]([H:10])[N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH+:20][C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1>>CC(C)(C)[N:62]1[P+:11][N:72](C(C)(C)C)[C:64]2=[C:63]1C=CC=C2.F[C:33]1=[CH:34][C:35](F)=[CH:36][C:31]([CH:20]([H:10])[C:41]2=[CH:42][C:43](F)=[CH:44][C:45](F)=[CH:46]2)=[CH:32]1 10,11=10,20"
"Cl[C:63]1=[CH:62][CH:61]=[N:10][CH:71]=[CH:72]1.[O-][N+:22]([C:21]1=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)=[O:23]>>[O-][N+:22](=[C:21]1[CH:20]([N+:10]2=[CH:61][CH:62]=[C:63](Cl)[CH:72]=[CH:71]2)[C:41]2=[N+:42]([O-])O[N:35]=[C:34]2[N:33]=[CH:32]1)[O-:23] 10=20;20,21=21,22;22,23=23"
"C1=CC=C([N:21]=[C:20]=[N:31]C2=CC=CC=C2)C=C1.C[Si](C)(C)[C:63]1=[CH:62][CH:11]=[CH:10][S:64]1>>C[Si](C)(C)[C:63]1=[CH:62][CH+:11][CH:10]([C:20]([N-:21]C2=CC=CC=C2)=[N:31]C2=CC=CC=C2)[S:64]1 10,11=10,20;20,21=21"
